US05176739
7.5 g (74.1 mmol) of methylmorpholine, 2.4 g (20 mmol) of dimethylaminopyridine and 17.4 g of a 50% strength solution of propanephosphonic anhydride (27.3 mmol) in dichloromethane were added dropwise in succession to 5.4 g (20 mmol) of 5-tert-butylaminocarbonyl-3-isopropylisothiazole-4-carboxylic acid in 200 ml of dichloromethane at -5° C. and the mixture was then refluxed for 6 hours. Working up was carried out as described above for Example No. 1.003. 4.8 g (95%) of N-tert-butyl-3-isopropylisothiazole-4,5-dicarboximide were obtained as a solid of melting point 52°-53° C. (Example No. 3.001).

reactant | methylmorpholine | 74.1 mmol, 7.5 g | CN1CCOCC1 | C5H11NO
reactant | dimethylaminopyridine | 20 mmol, 2.4 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 5-tert-butylaminocarbonyl-3-isopropylisothiazole-4-carboxylic acid | 20 mmol, 5.4 g | C(C)(C)(C)NC(=O)C1=C(C(=NS1)C(C)C)C(=O)O | C12H18N2O3S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-tert-butyl-3-isopropylisothiazole-4,5-dicarboximide | 4.8 g, 95% | C(C)(C)(C)N1C(=O)C=2C(=NSC2C1=O)C(C)C | C12H16N2O2S
